US08975254B2
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1,2-dimethyl-1H-imidazole-4-carboxamide
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide (700 mg, 1.90 mmol), EtOH (22 ml), KOH (151 mg, 2.70 mmol) and iodomethane (0.26 ml, 593 mg, 4.18 mmol) were added to a microwave oven reaction vial. The reaction mixture was stirred at RT for 74 h. Then water was added and the solution was evaporated to dryness. Water was added again and the precipitation was filtered and washed with water and heptane. Flash chromatography on silica gel by using CH2Cl2-MeOH as a gradient eluent (100:0-99:1) afforded the product, which was recrystallized in ethyl acetate, filtered at RT and washed with heptanes to afford the title compound. 1H NMR (400 MHz, CDCl3): 1.22 (3H, d), 2.39 (3H, s), 3.60 (3H, s), 4.29 (1H, distorted dd), 4.38 (1H, distorted dd), 4.55 (1H, m), 6.60 (1H, d), 7.41 (1H, s), 7.48 (1H, d), 7.54 (1H, d), 7.66 (1H, d), 7.85 (1H, dd), 7.99 (1H, d).

reactant | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide | 1.90 mmol, 700 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(NC1)C | C18H17ClN6O
reactant | EtOH | 22 ml | CCO | C2H6O
reactant | KOH | 2.70 mmol, 151 mg | [OH-].[K+]
reactant | iodomethane | 4.18 mmol, 0.26 ml, 593 mg | IC | CH3I
solvent | water | O | H2O
product | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1,2-dimethyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(N(C1)C)C | C19H19ClN6O
